US07884210B2
3-{2-[3-Cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid
The title compound was prepared via 3-{2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid ethyl ester in a similar manner as described for the synthesis of {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid, using cyclopentylmethyl-(4-methanesulfonyl-phenyl)-amine and 3-(2-amino-thiazol-5-ylsulfanyl)-propionic acid ethyl ester.

reactant | 3-{2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid ethyl ester | C(C)OC(CCSC1=CN=C(S1)NC(=O)N(C1=CC=C(C=C1)S(=O)(=O)C)CC1CCCC1)=O | C22H29N3O5S3
reactant | {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid | C1(CCCC1)CN(C(NC=1SC=C(N1)CC(=O)O)=O)C1=CC=C(C=C1)S(=O)(=O)C | C19H23N3O5S2
reactant | cyclopentylmethyl-(4-methanesulfonyl-phenyl)-amine | C1(CCCC1)CNC1=CC=C(C=C1)S(=O)(=O)C | C13H19NO2S
reactant | 3-(2-amino-thiazol-5-ylsulfanyl)-propionic acid ethyl ester | C(C)OC(CCSC1=CN=C(S1)N)=O | C8H12N2O2S2
product | 3-{2-[3-Cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid | C1(CCCC1)CN(C(NC=1SC(=CN1)SCCC(=O)O)=O)C1=CC=C(C=C1)S(=O)(=O)C | C20H25N3O5S3
